US08937088B2
Step 3. 4-[4-({[4-bromo-3-(pentafluoro-λ6-sulfanyl)phenyl]carbamoyl}amino)phenoxy]-N-methylpyridine-2-carboxamide
The crude 1-bromo-4-isocyanato-2-(pentafluoro-λ6-sulfanyl)benzene obtained above was dissolved in DCM (70 mL). 4-(4-aminophenoxy)-N-methylpicolinamide (1.54 g, 6.34 mmol, 0.8 eq) was added at room temperature under N2. The mixture was stirred at room temperature for about 30 min, a lot of solid precipitated. DCM (30 mL) was added and made the mixture stirred at room temperature for 18 hrs. The solid was filtrated, washed with DCM (50 mL), dried under high vacuum to afford 2.6 g (yield 72%) of the title compound as a white solid.

reactant | 1-bromo-4-isocyanato-2-(pentafluoro-λ6-sulfanyl)benzene | BrC1=C(C=C(C=C1)N=C=O)S(F)(F)(F)(F)F | C7H3BrF5NOS
reactant | 4-(4-aminophenoxy)-N-methylpicolinamide | 6.34 mmol, 1.54 g, 0.8 eq | NC1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1 | C13H13N3O2
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-({[4-bromo-3-(pentafluoro-λ6-sulfanyl)phenyl]carbamoyl}amino)phenoxy]-N-methylpyridine-2-carboxamide | 2.6 g, yield 72% | BrC1=C(C=C(C=C1)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)S(F)(F)(F)(F)F | C20H16BrF5N4O3S
